US05846995
A solution of 0.38 gm (1.46 mMol) of N,N-dimethyl-8-nitro-1,2,3,4-tetrahydro-2-dibenzofuranamine in 150 mL of ethanol was hydrogenated over 200 mg of 5% platinum on carbon at 40 p.s.i. for 2 hours at room temperature. The catalyst was removed by filtration and the filtrate concentrated under reduced pressure. The residue was subjected to radial chromatography (silica gel, 2 mm), eluting with 10% methanol (containing about 5% ammonium hydroxide) in chloroform. Fractions containing product were combined and concentrated under reduced pressure to provide 265 mg of N,N-dimethyl-8-amino-1,2,3,4-tetrahydro-2-dibenzofuranamine as a viscous oil. The oil was dissolved in diethyl ether and this solution treated with hydrogen chloride. The precipitated salt was filtered and dried to provide 337 mg (74%) of the title compound.

reactant | N,N-dimethyl-8-nitro-1,2,3,4-tetrahydro-2-dibenzofuranamine | 1.46 mMol, 0.38 gm | CN(C1CC2=C(OC3=C2C=C(C=C3)[N+](=O)[O-])CC1)C | C14H16N2O3
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | platinum on carbon | 200 mg | [Pt] | Pt
product | N,N-dimethyl-8-amino-1,2,3,4-tetrahydro-2-dibenzofuranamine | 265 mg | CN(C1CC2=C(OC3=C2C=C(C=C3)N)CC1)C | C14H18N2O
